US06649643B1
Production of 6-(1-Hydroxy-1-(1H-imidazol-4-yl)-2-methyl-propyl)-N-methyl-2-naphthamide
To a solution of methyl 6-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthoate (1.80 g) in THF (20 mL) was added methanol (4 mL) and 4N-NaOH (20 mL) at 50° C. The mixture was stirred for 90 min, neutralized with conc. HCl. The mixture was concentrated, diluted with water and extracted with ethyl acetate. The extract was concentrated to give crude mixture of 6-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthoic acid. To a solution of the crude mixture was added methylamine in THF (2.0M:3.50 mL), 1-hydroxybenzotriazole (536 mg) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (671 mg) under ice cooling. The mixture was stirred at room temperature for 20 h, diluted with water and extracted with ethyl acetate. The extract was concentrated and purified by column chromatography (eluent; hexane:THF=1:2) followed by crystallization from hexane-ethyl acetate to give the titled compound (1.55 g) as a pale yellow powder.

reactant | methyl 6-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthoate | 1.80 g | OC(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)C(=O)OC | C38H34N2O3
reactant | NaOH | 20 mL | [OH-].[Na+]
reactant | HCl | Cl | ClH
reactant | 6-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthoic acid | OC(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)C(=O)O | C37H32N2O3
reactant | methylamine | CN | CH5N
reactant | 1-hydroxybenzotriazole | 536 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 671 mg | Cl.CN(CCCN=C=NCC)C
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 2.0M, 3.50 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | methanol | 4 mL | CO | CH4O
product | 6-(1-Hydroxy-1-(1H-imidazol-4-yl)-2-methyl-propyl)-N-methyl-2-naphthamide | 1.55 g | OC(C(C)C)(C=1N=CNC1)C=1C=C2C=CC(=CC2=CC1)C(=O)NC | C19H21N3O2
